US07205296B2
To 3-(4-methoxybenzyl)6-fluoro-7-(methylamino)2,3-dihydrobenzo[e][1,3]oxazin-4-one (1 g, 3.5 mmol) added trifluoroacetic acid ((5 mL) and heated the reaction at 80° C. for 4 hr. RP-HPLC showed formation of new peak and disappearance of SM peak. The trifluoroacetic acid was removed under vacuum and the residue suspended in ethyl acetate and washed with saturated sodium bicarbonate solution. The ethyl acetate was dried, filtered and evaporated to afford 6-Fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one as off-white solid (0.500 g, 72%) after triturating with diethyl ether. RP-HPLC: 1.58 min; ES-MS (M+H)+=198.0; 1H-NMR (CDCl3) δ (ppm): 7.5 (d, 1), 6.4 (s, 1), 6.15 (d, 1), 5.17 (s, 2), 2.91 (s, 3)

reactant | 3-(4-methoxybenzyl)6-fluoro-7-(methylamino)2,3-dihydrobenzo[e][1,3]oxazin-4-one | 3.5 mmol, 1 g | COC1=CC=C(CN2COC3=C(C2=O)C=C(C(=C3)NC)F)C=C1 | C17H17FN2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 0.500 g, 72% | FC=1C(=CC2=C(C(NCO2)=O)C1)NC | C9H9FN2O2
